US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(6-fluorobenzofur-7-yl)piperidine
Beginning with 5.22 gm (24.3 mMol) 6-fluoro-7-bromobenzofuran and 5.19 gm (25.5 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 4.89 gm (59%) of the desired compound were prepared as a mixture of cis- and trans-isomers, essentially as described in EXAMPLE 3.

reactant | 6-fluoro-7-bromobenzofuran | 24.3 mMol, 5.22 gm | FC1=C(C2=C(C=CO2)C=C1)Br | C8H4BrFO
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 25.5 mMol, 5.19 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(6-fluorobenzofur-7-yl)piperidine | 4.89 gm, 59% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=C(C=CC=2C=COC21)F)O)C | C21H22FNO2
